US07105544B2
N-[3-(4-{3-[(CYCLOPROPYLCARBONYL)AMINO]PHENYL}-1-PIPERIDINYL)PROPYL]-1-(2,4-DICHLOROPHENYL)CYCLOPROPANECARBOXAMIDE
Example 117 was prepared from 1-(2,4-dichlorophenyl)cyclopropanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}cyclopropanecarboxamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 8.00–7.82 (br, 1H), 7.52–7.04 (m, 6H), 6.86 (d, 1H, J=7.2 Hz), 5.92–5.73 (br, 1H), 3.35–3.12 (m, 4H), 2.74–2.58 (m, 2H), 2.58–2.42 (m, 1H), 2.40–2.20 (m, 2H), 2.01–1.61 (m, 7H), 1.15–0.90 (m, 6H), 0.89–0.71 (m, 2H); ESMS m/e: 514.2 (M+H)+.

reactant | 1-(2,4-dichlorophenyl)cyclopropanecarboxylic acid | ClC1=C(C=CC(=C1)Cl)C1(CC1)C(=O)O | C10H8Cl2O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}cyclopropanecarboxamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C18H27N3O
product | N-[3-(4-{3-[(CYCLOPROPYLCARBONYL)AMINO]PHENYL}-1-PIPERIDINYL)PROPYL]-1-(2,4-DICHLOROPHENYL)CYCLOPROPANECARBOXAMIDE | C1(CC1)C(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(=O)C1(CC1)C1=C(C=C(C=C1)Cl)Cl | C28H33Cl2N3O2
